US07790737B2
5-Methoxypyrimidin-2-amine (12.3 g, 98.3 mmol) was dissolved in pyridine (123 mL), the solution was added with hexanoyl chloride (14.5 g, 108 mmol) on an ice bath, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was added with 1 M aqueous glycine (98.3 mL) at 0° C., and the mixture was stirred for 1 hour, and then extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, and the resulting residue was azeotroped with toluene. The resulting residue was recrystallized from chloroform-hexane to obtain N-(5-methoxypyrimidin-2-yl)hexanamide (18.4 g, 84%) as colorless solid.

reactant | 5-Methoxypyrimidin-2-amine | 98.3 mmol, 12.3 g | COC=1C=NC(=NC1)N | C5H7N3O
reactant | hexanoyl chloride | 108 mmol, 14.5 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | glycine | 1 M, 98.3 mL | NCC(=O)O | C2H5NO2
solvent | pyridine | 123 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-methoxypyrimidin-2-yl)hexanamide | 18.4 g, 84% | COC=1C=NC(=NC1)NC(CCCCC)=O | C11H17N3O2
